US05089507
3,3-dimethyl pipecolic acid
A suspension of 7.0 g (0.04 moles) of 3-chloro-4,4-dimethyl-2-oxoperhydroazepine and 13.84 g (0.043 moles) of Ba(OH)2.8H2O in 150 ml of water, was heated in a Parr apparatus at 150° C. for 4 hours. Then, 5.79 g (0.043 moles) of ammonium sulphate were added. The precipitate was filtered off, and the solution was evaporated in vacuo to dryness. The residue was treated with hot 2-propanol nd filtered, to yield 5 g of the title compound. M.P. >305° C.

reactant | 3-chloro-4,4-dimethyl-2-oxoperhydroazepine | 0.04 moles, 7.0 g | ClC1C(NCCCC1(C)C)=O | C8H14ClNO
reactant | ammonium sulphate | 0.043 moles, 5.79 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | 150 ml | O | H2O
product | 3,3-dimethyl pipecolic acid | 5 g | CC1(C(NCCC1)C(=O)O)C | C8H15NO2
